US08003649B2
A mixture of 1-benzhydrylpiperazine and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Phenomenex Luna C18 100A column (10μ silica, 21 mm diameter, 150 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-(4-benzhydrylpiperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-benzhydrylpiperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-(4-benzhydrylpiperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C23H21F3N6
